US04393220
Preparation of 2-allylsuccinic acid N-(3,5-dichlorophenyl)-imide
28 g (0.2 moles) of allylsuccinic acid anhydride, 32.4 g (0.2 moles) of 3,5-dichloroaniline, 0.6 g of triethylamine and 150 ml of xylene are reacted at 125° C., with stirring. The water produced during the reaction is removed azeotropically by way of a water separator. The duration of the reaction is 4 hours. The solvent is subsequently drawn off and the residue is recrystallized from ethyl acetate with the addition of active carbon. The product has a melting point of 121° C. The yield is 89.4% of the theoretical yield.

reactant | allylsuccinic acid anhydride | 0.2 moles, 28 g | C(C=C)C1C(=O)OC(C1)=O | C7H8O3
reactant | 3,5-dichloroaniline | 0.2 moles, 32.4 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2-allylsuccinic acid N-(3,5-dichlorophenyl)-imide | yield is 89.4% | ClC=1C=C(C=C(C1)Cl)N=C(C(CC(=O)O)CC=C)O | C13H13Cl2NO3
